US07906502B2
tert-Butyl (4-{(E)-[(4-methylphenyl)imino]methyl}phenoxy)acetate
tert-Butyl (4-formylphenoxy)acetate (5.0 g, 21.2 mmol) was dissolved in dry toluene (100 mL) and p-toluidine (2.27 g, 21.2 mmol) was added. The mixture was refluxed in a Dean-Stark apparatus for 18 hours, cooled and concentrated under reduced pressure. Heptane was added and the mixture was concentrated under reduced pressure. This afforded the title compound.

reactant | tert-Butyl (4-formylphenoxy)acetate | 21.2 mmol, 5.0 g | C(=O)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C13H16O4
reactant | p-toluidine | 21.2 mmol, 2.27 g | NC1=CC=C(C=C1)C | C7H9N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (4-{(E)-[(4-methylphenyl)imino]methyl}phenoxy)acetate | CC1=CC=C(C=C1)\N=C\C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C20H23NO3
